US07741333B2
Preparation of 3,3-dioxo-1,2,3,6-tetrahydro-3λ6-thieno[3,2-e]indole-7,8-dione
6.74 ml (126.38 mmol) of conc. sulphuric acid were introduced into a three-neck round-bottom flask with thermometer and high-efficiency condenser and heated to 70° C. 3.06 g (12.04 mmol) of N-(1,1-dioxo-2,3-dihydro-1H-1λ6-benzo[b]thiophen-5-yl)-2-[(E)-hydroxyimino]acetamide were then added in portions over the course of half an hour, during which the mixture became dark reddish brown in colour. After the addition was complete, the reaction mixture was heated to 90° C. and stirred at this temperature for one hour. For working up, the reaction mixture was allowed to cool to RT and was then added to a mixture of ice-water (110 ml) and ethyl acetate (25 ml) and briefly stirred. After separation of the phases, the solid which formed was filtered off with suction, washed with diethyl ether and dried in a drying oven at 50° C. overnight. 1.50 g of the desired compound were obtained.

reactant | sulphuric acid | 126.38 mmol, 6.74 ml | S(O)(O)(=O)=O | H2O4S
reactant | N-(1,1-dioxo-2,3-dihydro-1H-1λ6-benzo[b]thiophen-5-yl)-2-[(E)-hydroxyimino]acetamide | 12.04 mmol, 3.06 g | O=S1(C2=C(CC1)C=C(C=C2)NC(/C=N/O)=O)=O | C10H10N2O4S
solvent | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
product | 3,3-dioxo-1,2,3,6-tetrahydro-3λ6-thieno[3,2-e]indole-7,8-dione | 1.50 g | O=S1(CCC2=C3C(C(NC3=CC=C21)=O)=O)=O | C10H7NO4S
